US04873024
a. Preparation of (S) Glycidol-tetrahydropyran ether
(S)-Glycidol (2 g, 27.0 mmol) in dihydropyran (40 mL, 438.0 mmol) was treated with para-toluenesulphonic acid (0.3 g, 1.5 mmol) at 0° C. with magnetic stirring. The reaction was complete in 10 minutes (TLC, ether). The reaction mixture was diluted with ether (100 mL), washed with water (10 mL), saturated NaHCO3 solution (20 mL), brine (20 mL) and dried over MgSO4. Concentration and flash chromatography gave the title compound (3 g, 70%).

reactant | (S)-Glycidol | 27.0 mmol, 2 g | C1[C@@H](O1)CO | C3H6O2
reactant | dihydropyran | 438.0 mmol, 40 mL | O1CCCC=C1 | C5H8O
reactant | para-toluenesulphonic acid | 1.5 mmol, 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ether | 100 mL | CCOCC | C4H10O
product | Glycidol tetrahydropyran ether | 3 g, 70% | C1C(O1)CO.O1CCCCC1.CCOCC | InChI=1S/C5H10O.C4H10O.C3H6O2/c1-2-4-6-5-3-1;1-3-5-4-2;4-1-3-2-5-3/h1-5H2;3-4H2,1-2H3;3-4H,1-2H2
